US05382379
A suspension of triethyl phosphonoacetate (21.8 g) in THF (50 ml) was stirred in a nitrogen gas stream, followed by adding potassium-t-butoxide (11.8 g) little by little at room temperature, stirring the reaction solution at room temperature for one hour, dropwise adding a solution of 4-(3',4',5'-trifluorophenyl)cyclohexanone (20 g) in THF (50 ml), stirring at room temperature for 2 hours, adding to water (100 ml), extracting with ethyl acetate (100 ml), washing the organic layer with water, drying over anhydrous MgSO4 and concentrating the solvent under reduced pressure, to obtain 4-(3',4',5'-trifluorophenyl))ethoxycarbonylmethylenecyclohexane (18.3 g).

reactant | potassium-t-butoxide | 11.8 g | CC(C)([O-])C.[K+]
reactant | 4-(3',4',5'-trifluorophenyl)cyclohexanone | 20 g | FC=1C=C(C=C(C1F)F)C1CCC(CC1)=O | C12H11F3O
reactant | water | 100 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | ethoxycarbonylmethylenecyclohexane | 18.3 g | C(C)OC(=O)C=C1CCCCC1 | C10H16O2
